US06737425B1
N-isopropyl aniline 1.0 g, ethyl bromoacetate 2.47 g, potassium carbonate 5.11 g and sodium iodide 5.55 g were dissolved in N,N-dimethylformamide 14 ml in a nitrogen atmosphere and stirred under reflux with heating. After 1 hour, the reaction mixture was cooled to room temperature and then partitioned by adding water and diethyl ether, and the organic layer was washed with water and then with brine, dried over magnesium sulfate anhydride, and evaporated. The residue was purified by silica gel column chromatography (hexane/diethyl ethersystem) to give N-ethoxycarbonylmethyl-N-isopropyl aniline 1.62 g. A part 550 mg of this product was dissolved in tetrahydrofuran 10 ml, and 1M lithium aluminum hydride in tetrahydrofuran 2.5 ml was added thereto under cooling in an ice bath in a nitrogen atmosphere. The mixture was stirred in the ice bath for 40 minutes, and water 0.1 ml, 2N aqueous sodium hydroxide 0.1 ml, water 0.3 ml, and diethyl ether 5 ml were added in this order and stirred. The insolubles were filtered off through Celite, and the filtrate was evaporated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system), whereby the title compound 383 mg, 86% was obtained as a colorless oil.

reactant | N-isopropyl aniline | 1.0 g | C(C)(C)NC1=CC=CC=C1 | C9H13N
reactant | ethyl bromoacetate | 2.47 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 5.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 5.55 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | N-ethoxycarbonylmethyl-N-isopropyl aniline | 1.62 g | C(C)OC(=O)CN(C1=CC=CC=C1)C(C)C | C13H19NO2
